### PR TITLE
gte_add{l,r}

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Missing lemma in `constructive_ereal.v`.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -1511,6 +1511,12 @@ Qed.
 Lemma gte_subr y x : y \is a fin_num -> 0 < x -> - x + y < y.
 Proof. rewrite addeC; exact: gte_subl. Qed.
 
+Lemma gte_addl x y : x \is a fin_num -> y < 0 -> x + y < x.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/constructive_ereal.v]: in the long term, this should be better indeed

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -2287,6 +2295,31 @@ Qed.
...
+Lemma lte_paddl y x z : 0 <= x -> y < z -> y < x + z.
+Proof. by move=> x0 /lt_le_trans; apply; rewrite lee_paddl. Qed.
+
+Lemma lee_paddr y x z : 0 <= x -> y <= z -> y <= z + x.
+Proof. by move=> *; rewrite addeC lee_paddl. Qed.
+
+Lemma lte_paddr y x z : 0 <= x -> y < z -> y < z + x.
+Proof. by move=> *; rewrite addeC lte_paddl. Qed.
+
+Lemma lte_spaddre z x y : z \is a fin_num -> 0 < y -> z <= x -> z < x + y.
```
Comment (proux01) [inline theories/constructive_ereal.v:2310]: Maybe mention the renaming from `lte_spaddr` to `lte_spaddre` in the CHANGELOG?

**Review by proux01 — APPROVED** [review]
Will merge when CI is green.

File: theories/constructive_ereal.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/constructive_ereal.v:2310]: It is not really removed, just deprecated, that is why I didn't document it.

Comment (proux01) [reply theories/constructive_ereal.v:2310]: Ok, maybe we should document deprecations in the changelog then, but that's unrelated to that PR (I mean if, when the deprecation is removed, the thing is just listed as "removed", then the changelog is not very helpful as it doesn't link the new and old names).

Comment (affeldt-aist) [reply theories/constructive_ereal.v:2310]: This would take the form of a new entry? # Deprecated?

Comment (proux01) [reply theories/constructive_ereal.v:2310]: As a, not very cautious, user, when I have ignored the deprecation warnings for too long and something got removed, facing an error `blah doesn't exist` I'd like to find in the changelog an entry like `version x.y, blah replaced by bar`

**Comment by affeldt-aist** [comment]
I have a new commit:
https://github.com/affeldt-aist/analysis/commit/faa597fd761589cbef43aa4311b87df7bfb1d55d
but I can't rebase it on top of this PR without having to edit nix related files.
Could you try to cherry-pick it on your side?

**Comment by proux01** [comment]
done

**Comment by proux01** [comment]
@CohenCyril sorry, I may need your help here with the Nix CI: the `nix/config.nix` file asks for real-closed master in bundle master but the CI still builds 1.1.3:
```
building '/nix/store/dk1wnxyhscz06hj3avjkdqd3x4y9k4pp-coqdev-mathcompdev-real-closed-1.1.3.drv'...
```
(c.f. failing job)
Would you have any idea of what I made wrong?

**Comment by proux01** [comment]
BTW: why is analysis dependening on real-closed in Nix but not in OPAM?

**Comment by proux01** [comment]
Let's merge as is and fix CI in another PR.
